US09102697B2
In the first of two late-stage ring-forming (bond-pair) coupling reactions, components 7 and 8 were combined in a Kraus-Sugimoto cyanophthalide annulation reaction (Kraus, G. A.; Sugimoto, H. Tetrahedron Lett. 1978, 19, 2266-2266) (FIG. 2C). Thus, addition of solution of enone 8 (1 equiv) to the cyanophthalide anion derived from deprotonation of 7 (3.0 equiv) with lithium tert-butoxide (3.0 equiv) in tetrahydrofuran at −78° C. led to rapid formation of Michael addition product(s) (based on tic analysis, not characterized); upon warming to −40° C. these underwent cyclization to form a single dihydroquinone phenolate, which was trapped in situ by monomethylation with dimethylsulfate (9.0 equiv, −26→23° C.). The anthrone methyl ether 22 was obtained in 57% yield (3-g scale, yellow foam) after chromatographic purification, a process facilitated by the characteristic long-wavelength (365 nM) UV absorption of the product, with blue-green fluorescence, a characteristic of trioxacarcins. Oxidative cleavage of the alkenyl side-chain at 0° C. (4.0 equiv of NalO4; 0.1 equiv of K2OsO4.2H2O; 2.0 equiv of 2,6-lutidine) then provided the corresponding aldehyde as an orange foam (69% yield) (Yu, W.; Mei, Y.; Kang, Y.; Hua, Z.; Jin, Z. Org. Lett. 2004, 6, 3217-3219). The methoxymethyl (MOM) protective group was cleanly and selectively removed by treatment of the latter product with B-bromocatecholborane (2.0 equiv), affording the bisphenol intermediate (89% yield) (Boeckman, R. K.; Potenza, J. C. Tetrahedron Lett. 1985, 26, 1411-1414) as a yellow foam. Protection of this moderately air-sensitive product (t-Bu2SiCl2, HOBt, DIPEA, 55° C.) provided the much more stable, di-tert-butylsiloxane derivative (5, 50% yield) for final coupling. Unprotected aldehyde was found to be unstable to silica gel chromatography and was incompatible with the subsequent cycloaddition reaction.

reactant | cyanophthalide | C(#N)C1OC(=O)C2=CC=CC=C12 | C9H5NO2
reactant | lithium tert-butoxide | 3.0 equiv | CC(C)([O-])C.[Li+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | dihydroquinone phenolate | C1(=CC=CC=C1)[O-].C1(O)=CC=C(O)C=C1.C1(O)=CC=C(O)C=C1 | InChI=1S/2C6H6O2.C6H6O/c2*7-5-1-2-6(8)4-3-5;7-6-4-2-1-3-5-6/h2*1-4,7-8H;1-5,7H/p-1
